US08729095B2
Under ice cooling, to a mixed solvent solution of 7-chloro-1-{1-[(3-fluoro-2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}biphenyl-4-yl)carbonyl]piperidin-4-yl}-3,3-dimethyl-3,4-dihydro-1,5-naphthyridin-2(1H)-one (296 mg) in ethyl acetate (6 ml) and water (2 ml) were added 2,2,6,6-tetramethyl-1-piperidyloxy radical (4.0 mg) and potassium bromide (60.7 mg). To this was added dropwise a 5% aqueous sodium hypochlorite solution (0.812 ml), followed by stirring for 1 hour. 1 N hydrochloric acid was added to adjust the pH to around 4, and then 79% sodium chlorite (73.0 mg) was added, and stirred at room temperature for 3 hours. To the reaction solution were added water, a saturated aqueous sodium sulfite solution and a 10% aqueous citric acid solution, followed by extraction with dichloromethane. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford (3R)-3-[(4′-{[4-(7-chloro-3,3-dimethyl-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidin-1-yl]carbonyl}-3′-fluorobiphenyl-2-yl)oxy]butanoic acid (202 mg).

reactant | 7-chloro-1-{1-[(3-fluoro-2′-{[(1R)-3-hydroxy-1-methylpropyl]oxy}biphenyl-4-yl)carbonyl]piperidin-4-yl}-3,3-dimethyl-3,4-dihydro-1,5-naphthyridin-2(1H)-one | 296 mg | ClC1=CN=C2CC(C(N(C2=C1)C1CCN(CC1)C(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)O[C@@H](CCO)C)F)=O)(C)C | C32H35ClFN3O4
reactant | potassium bromide | 60.7 mg | [Br-].[K+]
reactant | sodium hypochlorite | 0.812 ml | Cl[O-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | sodium chlorite | 73.0 mg | Cl(=O)[O-].[Na+]
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 2 ml | O | H2O
product | (3R)-3-[(4′-{[4-(7-chloro-3,3-dimethyl-2-oxo-3,4-dihydro-1,5-naphthyridin-1(2H)-yl)piperidin-1-yl]carbonyl}-3′-fluorobiphenyl-2-yl)oxy]butanoic acid | 202 mg | ClC1=CN=C2CC(C(N(C2=C1)C1CCN(CC1)C(=O)C1=C(C=C(C=C1)C1=C(C=CC=C1)O[C@@H](CC(=O)O)C)F)=O)(C)C | C32H33ClFN3O5
